US07439393B2
iv) (5R)-3-[6-(2-{[3-(Cyclopentylsulfinyl)benzyl]oxy}ethoxy)hexyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one
Sodium periodate (333 mg) was added to a solution of (5R)-3-[6-(2-{[3-(cyclopentylthio)benzyl]oxy}ethoxy)hexyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (230 mg) in ethanol (12 ml) and water (4 ml). The mixture was stirred at room temperature under nitrogen for 3 h. and the ethanol evaporated in vacuo. The aqueous phase was diluted with water and extracted with ethyl acetate. The combined ethyl acetate extracts were dried (MgSO4) filtered, and evaporated in vacuo. The residue was purified on a 10 g silica SPE cartridge, eluting with a stepped gradient of 10% to 100% ethyl acetate-cyclohexane, to give the title compound (201 mg). LCMS RT=3.54 min.

reactant | Sodium periodate | 333 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | (5R)-3-[6-(2-{[3-(cyclopentylthio)benzyl]oxy}ethoxy)hexyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 230 mg | C1(CCCC1)SC=1C=C(COCCOCCCCCCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=CC1 | C33H45NO6S
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
product | (5R)-3-[6-(2-{[3-(Cyclopentylsulfinyl)benzyl]oxy}ethoxy)hexyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 201 mg | C1(CCCC1)S(=O)C=1C=C(COCCOCCCCCCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=CC1 | C33H45NO7S
